US06172057B2
1-(4-Fluoro-benzyl)-4-(4-butoxy-benzenesulfonyl)-piperidine-4-carboxylic acid was prepared starting from 1-(4-Fluoro-benzyl)-4-(4-butoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester (4.77 g, 10 mmol) dissolved in THF:methanol 3:1 and 10 N NaOH (10 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 3.5 g (79%); off white solid; mp 114° C.; MS: 450 (M+H)+.

reactant | 1-(4-Fluoro-benzyl)-4-(4-butoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester | 10 mmol, 4.77 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C25H32FNO5S
solvent | THF methanol | C1CCOC1.CO
solvent | NaOH | 10 N, 10 ml | [OH-].[Na+]
product | 1-(4-Fluoro-benzyl)-4-(4-butoxy-benzenesulfonyl)-piperidine-4-carboxylic acid | FC1=CC=C(CN2CCC(CC2)(C(=O)O)S(=O)(=O)C2=CC=C(C=C2)OCCCC)C=C1 | C23H28FNO5S
